US07842688B2
b) 1-(4-Bromobutyl)-3-methyl-1H-indole
The solution of 5.0 g of 2-methylindole in 70 ml of DMPU is admixed with stirring at 0° C. with 3.30 g of sodium hydride dispersion (60%) and stirred at room temperature over 2 hours. Subsequently, 20 ml of 1,4-dibromobutane and 1.40 g of tetrabutylammonium iodide are added (exothermic reaction). The mixture is stirred at room temperature over 20 hours. The reaction mixture is poured onto water (200 ml) and extracted with tert-butyl methyl ether (2×200 ml). The organic phases are washed successively with water (4×200 ml) and brine (1×200 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The excess of 1,4-dibromobutane is evaporated out of the residue under high vacuum and the title compound is obtained as a slightly yellowish oil by means of flash chromatography (SiO2 60F). Rf=0.79 (1:1 EtOAc-heptane); Rt=5.43.

reactant | 2-methylindole | 5.0 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | sodium hydride | 3.30 g | [H-].[Na+]
reactant | 1,4-dibromobutane | 20 ml | BrCCCCBr | C4H8Br2
reactant | DMPU | 70 ml | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 1.40 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-Bromobutyl)-3-methyl-1H-indole | BrCCCCN1C=C(C2=CC=CC=C12)C | C13H16BrN
